US05846895
(I) Synthesis of Methoxydimethylsilylcyclopentadiene [CpSi(Me)2 (OCH3)]
16.8 ml (0.22 moles) of a suspension of sodium in toluene at 30% are charged into a 250 ml flask. The mixture is diluted with 100 ml of THF and cooled to 0° C. 18.5 ml (0.22 moles) of cyclopentadiene diluted in 50 ml of THF are slowly added dropwise (about 60 minutes). The resulting solution is left under stirring at room temperature for a whole night, is then cooled to 0° C. and 29 ml (0.22 moles) of methoxydimethylchlorosilane fresh distillate (PETRARCH: 90%) are slowly added dropwise. The reaction is carried out at 0° C. for 3 hours. After filtration of the salt formed and evaporation of the solvent, a dark yellow oily liquid is obtained which, on distillation at 160°-162° C. gives 7.5 g of the desired product with a purity of 95.5% (GC), and a yield of 24%.

reactant | sodium | [Na] | Na
reactant | cyclopentadiene | 0.22 moles, 18.5 ml | C1=CC=CC1 | C5H6
reactant | methoxydimethylchlorosilane | 0.22 moles, 29 ml | CO[Si](Cl)(C)C | C3H9ClOSi
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methoxydimethylsilylcyclopentadiene | 7.5 g, yield of 24% | COC1=C(CC=C1)[SiH](C)C | C8H14OSi
